US07947851B2
Step a) Formation of methyl 2-fluoro-5-{[4-(phenylethynyl)benzyl]amino}benzoate
The title compound was prepared following the procedure described in Example 23 step a) using methyl 5-amino-2-fluorobenzoate (500 mg, 2.96 mmol) and 4-(phenylethynyl)benzaldehyde (Fluorochem, 640 mg, 3.10 mmol). The title compound was obtained as a white powder (717 mg, 68%). HPLC, Rt: 4.78 min (purity: 97.4%). LC/MS, M−(ESI): 358.1. 1H NMR (CDCl3) δ: 7.52-7.48 (m, 4H), 7.32 (m, 5H), 7.15 (dd, J=5.3, 3.1 Hz, 1H), 6.94 (dd, J=10.5, 9.2 Hz, 1H), 6.72 (m, 1H), 4.33 (s, 2H), 3.89 (s, 3H).

reactant | methyl 5-amino-2-fluorobenzoate | 2.96 mmol, 500 mg | NC=1C=CC(=C(C(=O)OC)C1)F | C8H8FNO2
reactant | 4-(phenylethynyl)benzaldehyde | 3.10 mmol, 640 mg | C1(=CC=CC=C1)C#CC1=CC=C(C=O)C=C1 | C15H10O
product | methyl 2-fluoro-5-{[4-(phenylethynyl)benzyl]amino}benzoate | FC1=C(C(=O)OC)C=C(C=C1)NCC1=CC=C(C=C1)C#CC1=CC=CC=C1 | C23H18FNO2
